US03962313
1,3,5-tris-[3-(3,5-Di-t-butyl-4-hydroxyphenyl)-propionyloxy]-2,2,4,4,6,6-hexamethylcyclohexane
To a stirred cooled solution of 2.16 g (0.010 mole) of 2,2,4,4,6,6-hexamethyl cyclohexane-1,3,5-triol in 50 ml of pyridine is added in several portions over a 20 minute period, 10.69 g (0.036 mole) of 3-(3,5-di-t-butyl-4hydroxyphenyl)propionyl chloride. This mixture is stirred for 30 minutes at 0° to 5°C and then for 15 hours at 45° to 50°C. The mixture is cooled to room temperature and poured into ice water. This mixture is then extracted several times with ethyl ether and these extracts are in turn washed with 2N sulfuric acid, water, 5% aqueous sodium carbonate solution, water and finally saturated sodium chloride solution. The ethereal extracts are then dried over sodium sulfate and evaporated to yield the product. Further purification is achieved by means of chromatography through silica gel, eluting successively with heptane and benzene. Removal of solvent and drying to constant weight at 100°/0.1 mm affords the product, m.p. 105°-115°C.

reactant | 2,2,4,4,6,6-hexamethyl cyclohexane-1,3,5-triol | 0.010 mole, 2.16 g | CC1(C(C(C(C(C1O)(C)C)O)(C)C)O)C | C12H24O3
reactant | 3-(3,5-di-t-butyl-4hydroxyphenyl)propionyl chloride | 0.036 mole, 10.69 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)Cl | C17H25ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1,3,5-tris-[3-(3,5-Di-t-butyl-4-hydroxyphenyl)-propionyloxy]-2,2,4,4,6,6-hexamethylcyclohexane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC1C(C(C(C(C1(C)C)OC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)(C)C)OC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)(C)C | C63H96O9
